US06465508B1
N-(2-Hydroxyethyl)-1-benzothiophene-2-carboxamide
2-Benzothiophenecarboxylic acid (3.0 g, 16.8 mmol) and ethanolamine (1.21 ml, 20 mmol) were coupled according to the procedure of Example 17 to 2.7 g (73% yield) of an off-white solid. 1H NMR (DMSO-d6): δ3.3 (m, CH2), 3.5 (q, CH2), 4.79 (t, NH), 7.1-7.4 (m, 2 Ar H), 7.90 (m, 1 Ar H), 7.95 (m, 1 Ar H), 8.09 (s, 1 Ar H), 8.89 (t, NH) Electrospray Mass Spec: m/z 222.2 (M+H)+.

reactant | 2-Benzothiophenecarboxylic acid | 16.8 mmol, 3.0 g | S1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O2S
reactant | ethanolamine | 20 mmol, 1.21 ml | C(O)CN | C2H7NO
product | N-(2-Hydroxyethyl)-1-benzothiophene-2-carboxamide | 17 to 2.7 g, 73% yield | OCCNC(=O)C=1SC2=C(C1)C=CC=C2 | C11H11NO2S
